US08802679B2
To a mixture of tert-butyl 4-(5-bromo-3-formylpyridin-2-yl)piperazine-1-carboxylate (1 g) and MeOH (20 ml) was added sodium borohydride (153 mg). After stirring at room temperature for 2 hours, the solvent was evaporated under reduced pressure. To the obtained residue was added water, followed by extraction with EtOAc. The organic layer was dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain tert-butyl 4-[5-bromo-3-(hydroxymethyl)pyridin-2-yl]piperazine-1-carboxylate (922 mg).

reactant | tert-butyl 4-(5-bromo-3-formylpyridin-2-yl)piperazine-1-carboxylate | 1 g | BrC=1C=C(C(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=O | C15H20BrN3O3
reactant | sodium borohydride | 153 mg | [BH4-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | tert-butyl 4-[5-bromo-3-(hydroxymethyl)pyridin-2-yl]piperazine-1-carboxylate | 922 mg | BrC=1C=C(C(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)CO | C15H22BrN3O3
